US07816552B2
5-[4-(6-Methoxy-1-methyl-1-H-benzimidazol-2-ylmethoxy)benzyl]thiazolidin-2,4-dione hydrochloride (Step 4)
To a solution of 2-{4-[(2,4-dioxo-1,3-thiazolidin-5-yl)methyl]phenoxy}-N-(5-methoxy-2-nitrophenyl)-N-methylacetamide (444.7 mg) in a mixed solvent of methanol (20 ml) and dimethylacetamide (5 ml) were added successively concentrated hydrochloric acid (0.344 ml) and a 10% wet palladium-carbon catalyst (244 mg). The atmosphere in the reaction flask was replaced with hydrogen gas (5 kg/cm2), and the resulting mixture was shaken at 50° C. for 3.5 hours. After shaking, the reaction mixture was cooled to room temperature and filtered to obtain a pale yellow filtrate. When the filtrate obtained was concentrated to about 5 g, the product crystallized out of solution. The crystals precipitated were collected by filtration and washed with methanol to afford the title compound (210 mg, yield: 48%) as a white crystalline solid.

reactant | 2-{4-[(2,4-dioxo-1,3-thiazolidin-5-yl)methyl]phenoxy}-N-(5-methoxy-2-nitrophenyl)-N-methylacetamide | 444.7 mg | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)N(C)C2=C(C=CC(=C2)OC)[N+](=O)[O-])C=C1 | C20H19N3O7S
reactant | methanol | 20 ml | CO | CH4O
reactant | hydrochloric acid | 0.344 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | palladium-carbon | 244 mg | [C].[Pd]
solvent | dimethylacetamide | 5 ml | CC(=O)N(C)C | C4H9NO
product | 5-[4-(6-Methoxy-1-methyl-1-H-benzimidazol-2-ylmethoxy)benzyl]thiazolidin-2,4-dione hydrochloride | 210 mg, yield: 48% | Cl.COC=1C=CC2=C(N(C(=N2)COC2=CC=C(CC3C(NC(S3)=O)=O)C=C2)C)C1 | InChI=1S/C20H19N3O4S.ClH/c1-23-16-10-14(26-2)7-8-15(16)21-18(23)11-27-13-5-3-12(4-6-13)9-17-19(24)22-20(25)28-17;/h3-8,10,17H,9,11H2,1-2H3,(H,22,24,25);1H
